US06852731B2
1-(1H-imidazol-2-yl)-2-(methylamino)ethanol dihydrochloride
A solution of 2-[methyl(trityl)amino]-1-(1-trityl-1H-imidazol-2-yl)ethanol (3.4 g, 5.43 mmol) in 70 mL of acetone was treated with a solution of 4N HCl in dioxane (5 mL) and stirred for 4 h at room temperature. The solvent was removed by evaporation in vacuum and the residue was suspended in EtOAc. The solid was collected by filtration and washed with hot EtOAc. A white solid, 0.92 g (79%) was obtained after drying under vacuum. mp 176.4-177.3° C.

reactant | 2-[methyl(trityl)amino]-1-(1-trityl-1H-imidazol-2-yl)ethanol | 5.43 mmol, 3.4 g | CN(CC(O)C=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H39N3O
reactant | HCl | 4N | Cl | ClH
solvent | acetone | 70 mL | CC(=O)C | C3H6O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(1H-imidazol-2-yl)-2-(methylamino)ethanol dihydrochloride | Cl.Cl.N1C(=NC=C1)C(CNC)O | InChI=1S/C6H11N3O.2ClH/c1-7-4-5(10)6-8-2-3-9-6;;/h2-3,5,7,10H,4H2,1H3,(H,8,9);2*1H
